US07855297B2
N-[(4-Formylphenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.42 g) was dissolved in a mixed solvent (10 mL) of ethanol: tetrahydrofuran (2:1), and sodium borohydride (0.15 g) was added under ice-cooling. The mixture was stirred at room temperature for 3 hr. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give N-{[4-(hydroxymethyl)phenyl]methyl}-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.25 g). melting point: 143.2° C.

reactant | N-[(4-Formylphenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.42 g | C(=O)C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C29H31NO3
reactant | sodium borohydride | 0.15 g | [BH4-].[Na+]
solvent | ethanol tetrahydrofuran | 10 mL | C(C)O.O1CCCC1
product | N-{[4-(hydroxymethyl)phenyl]methyl}-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.25 g | OCC1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C29H33NO3
